US04742057
2-Acetylamino-4-[4-(3-indolyl)piperidinomethyl]thiazole (1.2 g) in a mixture of ethanol (3 ml) and 10% hydrochloric acid (9 ml) was stirred at 80° C. for 2.5 hours. After cooling to ambient temperature, the reaction mixture was concentrated under reduced pressure. To the residue was added dropwise 10% aqueous sodium hydroxide solution (12 ml) under ice-cooling. The resulting crystals were collected, washed with water, dried and recrystallized from ethanol to give 2-amino-4-[4-(3-indolyl)piperidinomethyl]thiazole (410 mg).

reactant | 2-Acetylamino-4-[4-(3-indolyl)piperidinomethyl]thiazole | 1.2 g | C(C)(=O)NC=1SC=C(N1)CN1CCC(CC1)C1=CNC2=CC=CC=C12 | C19H22N4OS
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 9 ml | Cl | ClH
product | 2-amino-4-[4-(3-indolyl)piperidinomethyl]thiazole | 410 mg | NC=1SC=C(N1)CN1CCC(CC1)C1=CNC2=CC=CC=C12 | C17H20N4S
